US07514430B2
Part 1. 3-Phenyl-(2S)-2-(tetrahydro-pyran-2-yloxy)-propionic acid methyl ester
A solution of L-phenyl lactic acid methyl ester (20.0 g, 111 mmol) in CH2Cl2 (300 mL) was treated with dihydropyran (9.32 g, 111 mmol) and p-toluenesulphonic acid (56 mg) and stirred at room temperature for 20 minutes. The reaction is quenched with 1 N NaOH and then washed with water, brine and dried over Na2SO4. The solution is filtered and the solvent removed under vacuum to give 28 grams of the THP protected alcohol as an oil. This was used without further purification.

reactant | L-phenyl lactic acid methyl ester | 111 mmol, 20.0 g | CC(C1=CC=CC=C1)(C(=O)OC)O | C10H12O3
reactant | dihydropyran | 111 mmol, 9.32 g | O1CCCC=C1 | C5H8O
reactant | p-toluenesulphonic acid | 56 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | 3-Phenyl-(2S)-2-(tetrahydro-pyran-2-yloxy)-propionic acid methyl ester | COC([C@H](CC1=CC=CC=C1)OC1OCCCC1)=O | C15H20O4
